US06515027B1
a) 3-(3-bromopropoxy)-4-methoxy-1-nitrobenzene
A stirred mixture of 2-methoxy-5-nitrophenol (5.0 g. 29.6 mmol) and powdered potassium carbonate (6.5 g, 47.4 mmol) in dimethylformamide (50 mL) was treated with 1,3-dibromopropane (80.8 g, 0.4 mol), heated to 90° C. for 2 h, cooled, diluted with dichloromethane (250 mL), and filtered. The filtrate was concentrated in vacuo and the residue was crystallized from methanol. The resulting solid was triturated with 30% ethyl acetate/hexane and then with boiling 30% ethyl acetate/hexane. The combined organic phases were concentrated in vacuo to give the title compound: 1H NMR (300 MHz, CDCl3) δ7.92 (dd, 1H), 7.75 (d, 1H), 6.92 (dd, 1H), 4.20 (t, 2H), 3.95 (s, 3H), 3.62 (t, 2H), 2.40 (m, 2H).

reactant | 2-methoxy-5-nitrophenol | 29.6 mmol, 5.0 g | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | potassium carbonate | 47.4 mmol, 6.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 0.4 mol, 80.8 g | BrCCCBr | C3H6Br2
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 3-(3-bromopropoxy)-4-methoxy-1-nitrobenzene | BrCCCOC=1C=C(C=CC1OC)[N+](=O)[O-] | C10H12BrNO4
